US06107305
[4-(Phenylmethoxy)-1H-pyrazolo[3,4-b]pyridin-5-yl]phenylmethanone
To a solution of [4-hydroxy-1H-pyrazolo[3,4-b]pyridin-5-yl]phenylmethanone (50 mg, 0.21 mmol) in methanol (1 mL) and saturated aqueous NaHCO3 solution (10 mL) was added benzyl bromide (0.027 mL, 0.23 mmol). The reaction mixture was stirred at room temperature for 16 h and extracted with CH2Cl2 (3×10 mL). The combined organic layers were dried (Na2SO4) and concentrated in vacuo to give an oil. The crude material was purified by flash chromatography (SiO2, 230-400 mesh, eluted with 1:19 MEOH/CH2Cl2) to afford the title compound (13 mg, 20%) as a white solid.

reactant | [4-hydroxy-1H-pyrazolo[3,4-b]pyridin-5-yl]phenylmethanone | 0.21 mmol, 50 mg | OC1=C2C(=NC=C1C(=O)C1=CC=CC=C1)NN=C2 | C13H9N3O2
reactant | benzyl bromide | 0.23 mmol, 0.027 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | methanol | 1 mL | CO | CH4O
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | [4-(Phenylmethoxy)-1H-pyrazolo[3,4-b]pyridin-5-yl]phenylmethanone | 13 mg, 20% | C1(=CC=CC=C1)COC1=C2C(=NC=C1C(=O)C1=CC=CC=C1)NN=C2 | C20H15N3O2
